US05153352
Step A: Dimethyl 3-(phenylthio)cyclobutane-1,2-dicarboxylate
To a solution of 1.06 g (7.34 mmol) of dimethyl fumarate in 20 mL of dry 1,2-dichloroethane under nitrogen atmosphere, was added with stirring, 7.34 mmol of a 1.0 M solution of ethylaluminum dichloride in hexane. The resultant yellow solution was heated to reflux and a solution of 1.0 g (7.34 mmol) of phenyl vinyl sulfide in 4 mL of dry 1,2-dichloroethane was added dropwise, via syringe, over a period of 20 minutes. The reaction mixture was allowed to stir at reflux for 3 h. After cooling to ambient temperature, the reaction was quenched carefully with 100 mL of 1.0 N hydrochloric acid solution and the reaction mixture was extracted with 3×50 mL of ethyl acetate. The organic extract was washed with 2×50 mL of water and 50 mL of brine, dried over anhydrous magnesium sulfate, filtered and concentrated to a viscous orange oil. The oil (1.56 g) was chromatographed on silica gel (25 g) eluted with 300 mL of 3% ethyl acetate in 1,2-dichloroethane. The resultant yellow oil was purified by bulb-to-bulb distillation to give the title compound as a yellow oil; b.p 120° C. (0.05 mm Hg); EI-MS, m/e (relative intensity): 280 (M+, 18), 136 (100), 91 (13); 1H NMR (CDCl3) δ 2.20 (q, 1H), 2.61 (m, 1H), 3.22 (q, 1H), 3.34 (t, 1H), 3.66 (s, 3H), 3.67 (s, 3H), 3.87 (m, 1H), 7.30 (m, 5H).

reactant | dimethyl fumarate | 7.34 mmol, 1.06 g | C(\C=C\C(=O)OC)(=O)OC | C6H8O4
reactant | ethylaluminum dichloride | [Cl-].[Cl-].C(C)[Al+2]
reactant | phenyl vinyl sulfide | 7.34 mmol, 1.0 g | C(=C)SC1=CC=CC=C1 | C8H8S
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
solvent | hexane | CCCCCC | C6H14
solvent | 1,2-dichloroethane | 4 mL | ClCCCl | C2H4Cl2
product | Dimethyl 3-(phenylthio)cyclobutane-1,2-dicarboxylate | C1(=CC=CC=C1)SC1C(C(C1)C(=O)OC)C(=O)OC | C14H16O4S
